US06262040B1
1.E 2-Cyclopentyl-2H-indazole-6-carboxylic acid
This compound was prepared according to the method of Example 1.D, starting with 3.28 g (13.4 mmol) 2-cyclopentyl-2H-indazole-6-carboxylic acid methyl ester, 100 mL CH3OH and 40 mL 1N NaOH, to give 2.71 g (88%) of light yellow powder: mp 190-193° C.; Anal. calcd for C13H14N2O2: C, 67.79; H, 6.13; N, 12.16. Found: C, 67.40; H, 6.04; N, 12.38.

reactant | 2-cyclopentyl-2H-indazole-6-carboxylic acid methyl ester | 13.4 mmol, 3.28 g | COC(=O)C=1C=CC2=CN(N=C2C1)C1CCCC1 | C14H16N2O2
reactant | NaOH | 1N, 40 mL | [OH-].[Na+]
solvent | CH3OH | 100 mL | CO | CH4O
product | 2-Cyclopentyl-2H-indazole-6-carboxylic acid | C1(CCCC1)N1N=C2C=C(C=CC2=C1)C(=O)O | C13H14N2O2
